US07119205B2
4-(4-Bromo-phenyl)-2-(2-ethoxycarbonyl-acetylamino)-thiophene-3-carboxylic acid ethyl ester
To a solution of 2-amino-4-(4-bromophenyl)-thiophene-3-carboxylic acid ethyl ester (4.00 g, 11.5 mmol) in CH2Cl2 (40 mL) was added ethyl chloromalonate (2.15 g, 14.2 mmol) slowly. The mixture was then heated to reflux for 30 min. The mixture was concentrated under reduced pressure and separated by flash chromatography on silica gel (5–30% ethyl acetate in hexanes) giving the titled compound (4.98 g, 98.5%).

reactant | 2-amino-4-(4-bromophenyl)-thiophene-3-carboxylic acid ethyl ester | 11.5 mmol, 4.00 g | C(C)OC(=O)C1=C(SC=C1C1=CC=C(C=C1)Br)N | C13H12BrNO2S
reactant | ethyl chloromalonate | 14.2 mmol, 2.15 g | ClC(C(=O)OCC)C(=O)[O-]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromo-phenyl)-2-(2-ethoxycarbonyl-acetylamino)-thiophene-3-carboxylic acid ethyl ester | 4.98 g, 98.5% | C(C)OC(=O)C1=C(SC=C1C1=CC=C(C=C1)Br)NC(CC(=O)OCC)=O | C18H18BrNO5S
